US06255305B1
8-Methyl-7-(1-methylcyclobutyl)-6-(2-methyl-2 H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine
The compound was prepared using the procedures described in Example 102, Steps a), b) and c) with 1-methylcyclobutane carboxylic acid (U.S. Pat. No. 4,220,795) and 3,6-dichloro-4-methylpyridazine being used instead of cyclopentane carboxylic acid and 3,6-dichloropyridazine respectively in Step a), and benzoic acid hydrazide being used instead of 2-thiophene carboxylic acid hydrazide in Step b), and (2-methyl-2 H-1,2,4-triazol-3-yl)methanol (prepared using the conditions described in EP-A-421210) being used instead of 2-hydroxymethylpyridine in Step c). Data for the title compound: 1H NMR (360 MHz, CDCl3) δ1.54 (3 H, s), 1.76-1.84 (1 H, m), 2.04-2.16 (3 H, m), 2.46-2.53 (2 H, m), 2.64 (3 H, s), 3.94 (3 H, s), 5.53 (2 H, s), 7.46-7.56 (3 H, m), 7.93 (1 H, s), 8.34 (2 H, d, J=8 Hz); MS (ES+) m/e 390 [MH]+. Anal. Found C, 64.83; H, 5.82; N, 25.04. C21H23N7O requires C, 64.76; H, 5.95; N, 25.18%.

reactant | 1-methylcyclobutane carboxylic acid | CC1(CCC1)C(=O)O | C6H10O2
reactant | 3,6-dichloro-4-methylpyridazine | ClC=1N=NC(=CC1C)Cl | C5H4Cl2N2
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | benzoic acid hydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | (2-methyl-2 H-1,2,4-triazol-3-yl)methanol | CN1N=CN=C1CO | C4H7N3O
reactant | 2-hydroxymethylpyridine | OCC1=NC=CC=C1 | C6H7NO
product | 8-Methyl-7-(1-methylcyclobutyl)-6-(2-methyl-2 H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | CC=1C=2N(N=C(C1C1(CCC1)C)OCC=1N(N=CN1)C)C(=NN2)C2=CC=CC=C2 | C21H23N7O
